US07557067B2
(2) Synthesis of N-allyloxy-3,5-dichloro-1-methylpyrazole-4-carboxylic acid amide
In a solution of potassium carbonate (15.8 g, 114 mmol) in water (60 ml), a solution of 3,5-dichloro-1-methylpyrazole-4-carbohydroxamic acid (20.0 g, 95.2 mmol) and allyl bromide (13.8 g, 114 mmol) in toluene (60 ml) was added, and stirred at 50° C. for 3 hours. After cooling to room temperature, the mixture was adjusted to pH 1 by adding 35% hydrochloric acid, precipitated solid was filtered off, washed with water and toluene in that order, and dried to obtain the aimed product (17.2 g). Melting point 96-97° C. Proton nuclear magnetic resonance chemical shift values δ (ppm) (in CDCl3) 3.84 (s, 3H), 4.51 (d, J=6.3 Hz, 2H), 5.3-5.46 (m, 2H), 5.94-6.13 (m, 1H), 8.80 (brs, 1H).

reactant | potassium carbonate | 114 mmol, 15.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-dichloro-1-methylpyrazole-4-carbohydroxamic acid | 95.2 mmol, 20.0 g | ClC1=NN(C(=C1C(=O)NO)Cl)C | C5H5Cl2N3O2
reactant | allyl bromide | 114 mmol, 13.8 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | water | 60 ml | O | H2O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | N-allyloxy-3,5-dichloro-1-methylpyrazole-4-carboxylic acid amide | 17.2 g | C(C=C)ONC(=O)C=1C(=NN(C1Cl)C)Cl | C8H9Cl2N3O2
